US08030337B2
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2-methylpropanamide
N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride (100 mg, 0.369 mmol) was dissolved in pyridine (4 mL), isobutyryl chloride (42.5 μL, 0.406 mmol) was added under ice-cooling, and the mixture was stirred for 3 hr. Water was added to the reaction solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→95/5) to give the title compound (118 mg, yield 100%).

reactant | N-[2-(6-Amino-7-hydroxy-2,3-dihydro-1H-inden-1-yl)ethyl]acetamide hydrochloride | 0.369 mmol, 100 mg | Cl.NC1=CC=C2CCC(C2=C1O)CCNC(C)=O
reactant | isobutyryl chloride | 0.406 mmol, 42.5 μL | C(C(C)C)(=O)Cl | C4H7ClO
reactant | Water | O | H2O
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2-methylpropanamide | 118 mg, yield 100% | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(C(C)C)=O | C17H24N2O3
